US06369078B1
To a stirred solution of trans-N-Boc-2-isohexyl-6-methylpiperidine (1.4 g, 5.50 mmol) in 15% trifloroacetic acid (35 mL) in dichloromethane was stirred for 2 h at room temperature, and the reaction mixture was quenched with 70 mL saturated NaHCO3 solution. The mixture was extracted with ether *5 and the combined extracts were dried over K2CO3 and then concentrated to give trans-2-isohexenyl-6-methylpiperidine as an oil. The crude oil was immediately dissolved in a small amount of ether, and ether saturated with HCl (g) was added slowly via pipette. This solution was allowed to stand for 10 minutes, and the solvent was evaporated. More ether was added and the flask was swirled constantly until crystallization occured. The solid was collected via filtration, and dried in vacuo to give the piperidinium hydrochloride as a white solid. mp 164.2-167.0° C.; 1H NMR (250 MHz) δ9.44 (s, 2H), 5.71 (s, 2H), 4.18 (s, 1H), 3.56 (s, 1H), 2.0-1.5 (m, 12H), 0.94 (dd, 6H); 13C NMR (62.7 MHz) δ135.7 (s), 123.6 (s), 4.84 (s), 47.9 (s), 36.9 (s), 28.9 (s), 28.4 (s), 28.2 (s), 22.5 (s), 22.1 (s), 17.6 (s), 17.2 (s) ppm. FT-IR (neat): 3429, 3165, 2940, 1620, 1550, 1478, 1400, 1354, 1097, 890. Elemental Analysis for C12H24NCl: C, 66.17%; H, 11.13%; N, 6.43%. Found: C, 66.25%; H, 11.05%; N, 6.50%.

reactant | trans-N-Boc-2-isohexyl-6-methylpiperidine | 5.50 mmol, 1.4 g | C(=O)(OC(C)(C)C)N1[C@H](CCC[C@@H]1C)CCCC(C)C | C17H33NO2
solvent | trifloroacetic acid | 35 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | trans-2-isohexenyl-6-methylpiperidine | C(=CCC(C)C)[C@@H]1N[C@H](CCC1)C | C12H23N
